US03984460
Methyl 5-tert.-butyl-2,3-dimethyl-4-hydroxyphenylacetate
11.8 grams of 5-tert.-butyl-2,3-dimethyl-4-hydroxyphenylacetic acid was added at 20°C to 200 ml of methanol previously saturated with hydrogen chloride gas. The slightly pinkish solution was heatd at reflux (68°C) for 3 hours after which about one-half of the solvent was removed at reduced pressures and the reaction mixture then poured into about 500 ml of an ice-water mixture with stirring until all the ice had melted. The precipitated crystals were filtered, washed with water and dissolved in benzene. The benzene solution was successively washed with water, saturated sodium bicarbonate solution and finally with water to pH 7, the benzene solution being dried over anhydrous sodium sulfate. The clear benzene solution, freed of drying agent by filtration, was concentrated at reduced pressure. The resulting solid residue was triturated with hexane to remove color bodies. After recrystallization from methanol, the desired product was obtained as white crystals melting at 117° to 119°C (Compound 14).

reactant | 5-tert.-butyl-2,3-dimethyl-4-hydroxyphenylacetic acid | 11.8 grams | C(C)(C)(C)C=1C(=C(C(=C(C1)CC(=O)O)C)C)O | C14H20O3
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | CO | CH4O
product | Methyl 5-tert.-butyl-2,3-dimethyl-4-hydroxyphenylacetate | C(C)(C)(C)C=1C(=C(C(=C(C1)CC(=O)OC)C)C)O | C15H22O3
